US04096267
Step C: (1-Oxo-2-cyclopentyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid
A stirred mixture of 2-cyclopentyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone (1.10 g., 0.003 mole), potassium carbonate (0.85 g., 0.006 mole) and ethyl bromoacetate (1.02 g., 0.006 mole) in dimethylformamide (20 ml.) is warmed at 55°-60° C. for 3 hours, then treated with water (20 ml.)-10N sodium hydroxide solution (1.2 ml., 0.012 mole) and heated at 100° C. for one hour. The reaction mixture is added slowly to water (300 ml.)-12N hydrochloric acid (5 ml.) to precipitate 680 mg. of (1-oxo-2-cyclopentyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 184°-186° C. after crystallization from nitromethane.

reactant | 2-cyclopentyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone | 0.003 mole, 1.10 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C1=CC=CC=C1 | C20H18Cl2O2
reactant | potassium carbonate | 0.006 mole, 0.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.006 mole, 1.02 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.012 mole, 1.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | -12N, 300 ml | O | H2O
solvent | water | -10N, 20 ml | O | H2O
product | (1-Oxo-2-cyclopentyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=CC=C1)C1CCCC1 | C22H20Cl2O4
